US05438052
3-Amino-5-methyl-1H-s-triazole (19.8 g) (about 0.12 mol) (about 70%) and 30 g (0.16 mol) of dimethyl 3-oxo-adipate are melted together while gassing with argon for 1 hour in a bath heated at 160° C. In so doing, the volatile products are removed in a water-jet vacuum. After cooling the solid residue is dissolved in dichloromethane/methanol (1:1 v/v). The turbid yellowish solution is filtered and concentrated. The crystals which thereby result are filtered off under suction and washed with ethanol, subsequently with diethyl ether. There are obtained 20 g of methyl 4,7-dihydro-2-methyl-7-oxo-s-triazolo[1,5-a]pyrimidine-5-propionate as a white crystals of melting point 222°-225° C.

reactant | 3-Amino-5-methyl-1H-s-triazole | about 0.12 mol, 19.8 g | NC1=NNC(=N1)C | C3H6N4
reactant | dimethyl 3-oxo-adipate | 0.16 mol, 30 g | O=C(CC(=O)OC)CCC(=O)OC | C8H12O5
product | methyl 4,7-dihydro-2-methyl-7-oxo-s-triazolo[1,5-a]pyrimidine-5-propionate | 20 g | CC1=NN2C(NC(=CC2=O)CCC(=O)OC)=N1 | C10H12N4O3
